US08912227B1
To a solution of (E)-ethyl 2-((4-chlorophenyl)(4,4,4-trifluoro-3-oxobut-1-en-1-yl)amino)acetate (0.95 g, 2.83 mmol) in EtOAc (20 mL) was added DBU (0.85 mL, 5.66 mmol) and the resulting mixture heated in a sealed tube for 90 min at 120° C. The resulting mixture was cooled to room temperature, diluted with EtOAc (80 mL) and washed with 5% KHSO4 (2×80 mL) and brine (80 mL). The organic layer was concentrated and the residue purified by elution from a 25-g silica cartridge with 0-20% EtOAc/heptane to yield ethyl 1-(4-chlorophenyl)-3-(trifluoromethyl)-1H-pyrrole-2-carboxylate as a white solid.

reactant | (E)-ethyl 2-((4-chlorophenyl)(4,4,4-trifluoro-3-oxobut-1-en-1-yl)amino)acetate | 2.83 mmol, 0.95 g | ClC1=CC=C(C=C1)N(CC(=O)OCC)\C=C\C(C(F)(F)F)=O | C14H13ClF3NO3
reactant | DBU | 5.66 mmol, 0.85 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | ethyl 1-(4-chlorophenyl)-3-(trifluoromethyl)-1H-pyrrole-2-carboxylate | ClC1=CC=C(C=C1)N1C(=C(C=C1)C(F)(F)F)C(=O)OCC | C14H11ClF3NO2
